US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-imidazole
The same procedure as in Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 1.4 g of imidazole were used as the starting materials. 6.5 g (91%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | imidazole | 1.4 g | N1C=NC=C1 | C3H4N2
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-imidazole | 6.5 g, 91% | CC(=CC(=O)N1C=NC=C1)CCC=C(CCC=C(CCC=C(C)C)C)C | C23H34N2O
